US07414063B2
4-bromo-1-(2,2-dimethoxy-ethoxy)-2-methyl-benzene
Powdered potassium carbonate (3.36 g, 24.3 mmol) is added to a stirred solution of 4-bromo-2-methylphenol (3.03 g, 16.2 mmol) and bromoacetaldehyde dimethyl acetal (3.56 g, 21.1 mmol) in anhydrous DMF (20 mL). The resultant mixture is stirred at 85° C. under nitrogen for 24 hours. The mixture is cooled to ambient temperature; then water (100 mL) and EtOAc (100 mL) are added to the mixture. The organic layer is separated, dried over MgSO4, filtered and concentrated. The oil is chromatographed on silica (gradient 5-20% EtOAc in hexane) to give 1.78 g (6.47 mmol, 40% yield) of the title compound. EIMS: m/z 274 (M+, 79Br), 276 (M+, 81Br). Analysis for C11H15BrO3: calcd: C, 48.02; H, 5.50; found: C, 48.32; H, 5.53.

reactant | potassium carbonate | 24.3 mmol, 3.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-methylphenol | 16.2 mmol, 3.03 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | bromoacetaldehyde dimethyl acetal | 21.1 mmol, 3.56 g | COC(CBr)OC | C4H9BrO2
reactant | water | 100 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-bromo-1-(2,2-dimethoxy-ethoxy)-2-methyl-benzene | 6.47 mmol, 1.78 g, 40% yield | BrC1=CC(=C(C=C1)OCC(OC)OC)C | C11H15BrO3
